US04323643
(2) 2-(4-Aminophenyl)-1-formylhydrazine
In 1,600 ml of ethanol, 30 g of 2-(4-nitrophenyl)-1-formylhydrazine was catalytically reduced at room temperature, using palladium-carbon as a catalyst. The reaction mixture was filtered and the filtrate was evaporated to dryness, whereby 20.5 g of white solid 2-(4-aminophenyl)-1-formylhydrazine was obtained. Melting point: 123° to 125° C.

reactant | 2-(4-nitrophenyl)-1-formylhydrazine | 30 g | [N+](=O)([O-])C1=CC=C(C=C1)NNC=O | C7H7N3O3
solvent | ethanol | 1,600 ml | C(C)O | C2H6O
catalyst | palladium-carbon | [C].[Pd]
product | 2-(4-Aminophenyl)-1-formylhydrazine | 20.5 g | NC1=CC=C(C=C1)NNC=O | C7H9N3O
